US04314942
4-Acetylthioazetidin-2-one (Annalen, 1974, p. 553) (1.4 g) and allyl glyoxylate hydrate (1.5 g) are refluxed for 2 hours in benzene to afford a solution of 1-(allyloxycarbonylhydroxymethyl)-4-acetylthioazetidin-2-one which is cooled and used directly in the next step.

reactant | 4-Acetylthioazetidin-2-one | 1.4 g | C(C)(=O)SC1CC(N1)=O | C5H7NO2S
reactant | allyl glyoxylate hydrate | 1.5 g | O.C(C=O)(=O)OCC=C
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-(allyloxycarbonylhydroxymethyl)-4-acetylthioazetidin-2-one | C(C=C)OC(=O)C(N1C(CC1SC(C)=O)=O)O | C10H13NO5S
